US06878700B1
(2-Methylphenyl)[2-trifluoromethyl-4-(E-((4-acetylpiperazin-1-yl)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-methylthiophenol, 2-chlorobenzaldehyde with 4-fluoro-3-trifluoromethyl benzaldehyde, and 6-amino-1-hexanol with 1-acetylpiperazine. 1H NMR (CDCl3, 300 MHz) δ 7.79 (s, 1H); 7.63 (d, J=15.4 Hz, 1H); 7.51 (d, J=6.8 Hz, 1H); 7.41-7.33 (m, 3H); 7.28 (m, 1H); 6.83 (d, J=15.4 Hz, 1H); 6.79 (d, J=6.8 Hz, 1H); 3.80-3.60 (m, 6H); 3.57-3.50 (m, 2H); 2.34 (s, 3H); 2.14 (s, 3H). MS (ESI) m/z 919 (2M+Na)+, 897 (2M+H)+, 471 (M+Na)+, 449 (M+H)+.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-methylthiophenol | CC1=C(C=CC=C1)S | C7H8S
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-fluoro-3-trifluoromethyl benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 1-acetylpiperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | (2-Methylphenyl)[2-trifluoromethyl-4-(E-((4-acetylpiperazin-1-yl)carbonyl)ethenyl)phenyl]sulfide | CC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)N1CCN(CC1)C(C)=O)C(F)(F)F | C23H23F3N2O2S
